US07960369B2
3-(4-((2′-(aminocarbonyl)biphenyl-3-yl)methoxy)phenyl)propanoic acid
The title compound was synthesized in the same manner as in Example 285 from 3′-[4-(2-tert-butoxycarbonylethyl)phenoxymethyl]biphenyl-2-carboxylic acid and 1-hydroxybenzotriazole ammonium salt. colorless crystals (yield 66%). MS (APCI−): 374 (M−H).

reactant | 3′-[4-(2-tert-butoxycarbonylethyl)phenoxymethyl]biphenyl-2-carboxylic acid | C(C)(C)(C)OC(=O)CCC1=CC=C(OCC=2C=C(C=CC2)C=2C(=CC=CC2)C(=O)O)C=C1 | C27H28O5
reactant | 1-hydroxybenzotriazole ammonium salt | [NH4+].ON1N=NC2=C1C=CC=C2
product | 3-(4-((2′-(aminocarbonyl)biphenyl-3-yl)methoxy)phenyl)propanoic acid | NC(=O)C1=C(C=CC=C1)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)O | C23H21NO4
